US09162992B2
2-(n-Propyl)amino-4-chloro-7-methyl-pyrrolo[2,3-d]pyrimidine (CXXIV) (1.6 g, 7.1 mmol) was added to n-butanol (10 mL) followed by potassium carbonate (4.9 g, 35.5 mmol) and piperidin-4-ol hydrochloride (632 mg, 10.7 mmol). The mixture was stirred in an autoclave equipped with a stirrer at 130° C. for 16 h. After cooling to room temperature, water was added (20 mL), and the mixture was extracted with EtOAc (3×50 mL). The combined organic layers were washed with water and then with a brine solution, and dried over anhydrous Na2SO4. The solvents were removed in vacuo and the residue was purified by flash column chromatography (pet ether/EtOAc=3/1) to yield 2-(n-propyl)amino-4-(4-hydroxypiperidin-1-yl)-7-methyl-pyrrolo[2,3-d]pyrimidine (1.2 g, 75%) as a yellow solid. LCMS (ESI) m/z=290 (M+H)+.

reactant | 2-(n-Propyl)amino-4-chloro-7-methyl-pyrrolo[2,3-d]pyrimidine | 7.1 mmol, 1.6 g | C(CC)NC=1N=C(C2=C(N1)N(C=C2)C)Cl | C10H13ClN4
reactant | n-butanol | 10 mL | C(CCC)O | C4H10O
reactant | potassium carbonate | 35.5 mmol, 4.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | piperidin-4-ol hydrochloride | 10.7 mmol, 632 mg | Cl.N1CCC(CC1)O
solvent | water | O | H2O
product | 2-(n-propyl)amino-4-(4-hydroxypiperidin-1-yl)-7-methyl-pyrrolo[2,3-d]pyrimidine | 1.2 g, 75% | C(CC)NC=1N=C(C2=C(N1)N(C=C2)C)N2CCC(CC2)O | C15H23N5O
